US09382238B2
To a mixture of 2-chloro-4-nitropyridine (20 g, 126 mmol) in THF (200 mL) was added sodium ethoxide (25.8 g, 378 mmol) in portions. The mixture was stirred at 25° C. for 10 h. The mixture was filtered and the filtrate was concentrated. The crude material was purified by silica column chromatography (PE/EA=5:1). All fractions found to contain product by TLC (PE/EA=5:1, Rf=0.6) were combined and concentrated to yield a light yellow solid of 2-chloro-4-ethoxypyridine (13 g, 71.9 mmol, 57% yield): 1H NMR (400 MHz, CDCl3) δ 8.18 (d, J=5.2 Hz, 1H), 6.82 (d, J=2.4 Hz, 1H), 6.73 (dd, J=2.0, 6.0 Hz, 1H), 4.09 (q, J=7.2 Hz, 2H), 1.44 (t, J=7.2 Hz, 3H); ES-LCMS m/z 158 (M+H).

reactant | 2-chloro-4-nitropyridine | 126 mmol, 20 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium ethoxide | 378 mmol, 25.8 g | [O-]CC.[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-ethoxypyridine | 71.9 mmol, 13 g, 57% yield | ClC1=NC=CC(=C1)OCC | C7H8ClNO
